US04658055
In the presence of 0.3 g of para-toluenesulfonic acid, 20 g (0.16 mol) of cyclooctanone and 27 g (0.18 mol) of ethyl orthoformate were stirred at room temperature overnight. The resultant mixture was heated at 100° C. for 15 hours and distilled under reduced pressure to give 10.9 g (45% in yield) of 1-ethoxycyclooctene having a boiling point of 97.5° to 98.5° C./25 mmHg.

reactant | cyclooctanone | 0.16 mol, 20 g | C1(CCCCCCC1)=O | C8H14O
reactant | ethyl orthoformate | 0.18 mol, 27 g | C(OCC)([O-])[O-]
catalyst | para-toluenesulfonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-ethoxycyclooctene | 10.9 g, 45% | C(C)OC1=CCCCCCC1 | C10H18O
